US08389511B2
tert-Butyl 3-(isopropyl{[4-(4-methoxybutyl)-2,2-dimethyl-3-oxo-7-(trifluoromethyl)-3,4-dihydro-2H-1,4-benzoxazin-6-yl]carbonyl}amino)azepane-1-carboxylate
Using 4-(4-methoxybutyl)-2,2-dimethyl-3-oxo-7-(trifluoromethyl)-3,4-dihydro-2H-1,4-benzoxazine-6-carboxylic acid and tert-butyl 3-(isopropylamino)azepane-1-carboxylate, the title compound was obtained in a similar manner to Reference Example 5.

reactant | 4-(4-methoxybutyl)-2,2-dimethyl-3-oxo-7-(trifluoromethyl)-3,4-dihydro-2H-1,4-benzoxazine-6-carboxylic acid | COCCCCN1C(C(OC2=C1C=C(C(=C2)C(F)(F)F)C(=O)O)(C)C)=O | C17H20F3NO5
reactant | tert-butyl 3-(isopropylamino)azepane-1-carboxylate | C(C)(C)NC1CN(CCCC1)C(=O)OC(C)(C)C | C14H28N2O2
product | tert-Butyl 3-(isopropyl{[4-(4-methoxybutyl)-2,2-dimethyl-3-oxo-7-(trifluoromethyl)-3,4-dihydro-2H-1,4-benzoxazin-6-yl]carbonyl}amino)azepane-1-carboxylate | C(C)(C)N(C1CN(CCCC1)C(=O)OC(C)(C)C)C(=O)C=1C(=CC2=C(N(C(C(O2)(C)C)=O)CCCCOC)C1)C(F)(F)F | C31H46F3N3O6
